US07125901B2
To a solution of 2-bromo-1-[3-(2-hydroxyethyl)phenyl]ethanone (crude, 658 mg) in tetrahydrofuran (15 ml) was added 1-acetyl-2-thiourea (320 mg) at 25° C. The mixture was stirred at 60° C. for 2 h. The residual colorless crystals were collected by filtration. The crystals were washed with isopropyl ether, dried under reduced pressure to give N-{4-[3-(2-hydroxyethyl)phenyl]-1,3-thiazol-2-yl}acetamide (514 mg) as a colorless crystal.

reactant | 2-bromo-1-[3-(2-hydroxyethyl)phenyl]ethanone | 658 mg | BrCC(=O)C1=CC(=CC=C1)CCO | C10H11BrO2
reactant | 1-acetyl-2-thiourea | 320 mg | C(C)(=O)NC(=S)N | C3H6N2OS
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | N-{4-[3-(2-hydroxyethyl)phenyl]-1,3-thiazol-2-yl}acetamide | 514 mg | OCCC=1C=C(C=CC1)C=1N=C(SC1)NC(C)=O | C13H14N2O2S
